US05023336
4,5-Dichloroimidazole was reacted with chloromethyl methyl ether to obtain 4,5-dichloro-1-methoxymethylimidazole (nD26.8 :1.5090). This compound was gradually crystallized after being allowed to stand (melting point: 41° to 44° C.).

reactant | 4,5-Dichloroimidazole | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | chloromethyl methyl ether | COCCl | C2H5ClO
product | 4,5-dichloro-1-methoxymethylimidazole | ClC=1N=CN(C1Cl)COC | C5H6Cl2N2O
